US07166598B2
To a 3-chlorosulfonyl-5-(trifluoromethyl)benzoic acid (0.4 g) was added 28% ammonia aqueous solution (5.0 ml) at 0° C. The mixture was stirred at 0° C., and then allowed to stand at room temperature overnight. The mixture was concentrated to dryness, and then 1N hydrochloric acid (5 ml) was added to the mixture, and stirred at 0° C. for 30 minutes. The resulted powder was collected by filtration and dried under reduced pressure to give 3-sulfamoyl-5-(trifluoromethyl)benzoic acid (299.4 mg) as a pale yellow powder.

reactant | 3-chlorosulfonyl-5-(trifluoromethyl)benzoic acid | 0.4 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4ClF3O4S
reactant | ammonia aqueous | 5.0 ml | [NH4+].[OH-]
product | 3-sulfamoyl-5-(trifluoromethyl)benzoic acid | 299.4 mg | S(N)(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H6F3NO4S
